US09029548B2
The HCl salt of 3-amino-N-(2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)propanamide (0.1 mmol) is taken up in 5 mL of DMF along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (DHA, 0.1 mmol), HATU (0.11 mmol) and DIEA (0.3 mmol). The resulting reaction mixture is stirred at room temperature for 4 h and then diluted with EtOAc (20 mL). The organic layer is washed with water (3×5 mL), brine (20 mL), dried (Na2SO4) and concentrated under reduced pressure. Purification by silica gel chromatography (95% CH2Cl2, 5% MeOH) affords (4Z,7Z,10Z,13Z,16Z,19Z)-N-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)amino)-3-oxopropyl)docosa-4,7,10,13,16,19-hexaenamide.

reactant | HCl | Cl | ClH
reactant | 3-amino-N-(2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)propanamide | 0.1 mmol | NCCC(=O)NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C16H18N4O4
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 0.1 mmol | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 0.11 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.3 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (4Z,7Z,10Z,13Z,16Z,19Z)-N-(3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)amino)-3-oxopropyl)docosa-4,7,10,13,16,19-hexaenamide | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)NC(CCNC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)=O)=O)=O | C38H48N4O5
